US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorobenzonitrile were coupled in the same way as in Example 30 to give 4,2′-difluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-3-carbonitrile as an off-white solid (9 mg, 5%): m/z (ES+) 408 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorobenzonitrile | CC1(COB(OC1)C=1C=CC(=C(C#N)C1)F)C | C12H13BFNO2
product | 4,2′-difluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-3-carbonitrile | 9 mg, 5% | FC1=C(C=C(C=C1)C1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)F)C#N | C23H16F3N3O
